* Z:\mnt\design.r\spice\examples\3535.asc
XU1 OUT1 N002 0 OUT2 N001 0 IN IN N004 IN IN N003 LTC3535
V1 IN 0 1.2
L1 IN N002 4.7µ Rser=5m Rpar=10K
L2 IN N001 4.7µ Rser=5m Rpar=10K
C1 OUT1 0 10µ
R1 OUT1 N003 511K
R2 N003 0 1Meg
C2 OUT2 0 10µ
R3 OUT2 N004 1.78Meg
R4 N004 0 1Meg
Rload1 OUT1 0 18
Rload2 OUT2 0 66
.tran .5m startup
.lib LTC3535.sub
.backanno
.end
